data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC1=C(C=C2C(=C1)C(C3=C(C2=O)NC4=C3C=CC(=C4)C#N)(C)C)N5CC[NH:10]CC5.C1COCCC12[CH2:20][O:21]2.CCN(C(C)C)C(C)C.CO>>CCC1=C(C=C2C(=C1)C(C3=C(C2=O)NC4=C3C=CC(=C4)C#N)(C)C)N5CC[NH+:10](CC5)[CH2:20]C6(CCOCC6)[O-:21].CCN(C(C)C)C(C)C.CO 10=20;20,21=21
C1=CC=C(C=C1)CC(=O)C[C:20](=[O:21])OC(=O)C2=CC=CC=C2.[OH-:10]>>C1=CC=C(C=C1)CC(=O)C[C:20]([OH:10])([O-:21])OC(=O)C2=CC=CC=C2 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.COC(OC)[O:10]C.CC1=CNC(=C1CCC(=O)OC)C>>[H:20][O+:10](C)C(OC)OC.C(=O)(C(F)(F)F)[O-:21].CC1=CNC(=C1CCC(=O)OC)C 10=20;20,21=21
[B-:10]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[OH+:11]C(C(C)C=C)C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C.[OH-].[Na+]>>[B:10]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O.CCCCCCCC(C(C)C(C(C)C=C)[OH:11])OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C.[OH-].[Na+] 10,11=11
C1CO[C:20]([NH2+:21]1)([O-:10])Cl>>C(CO[C:20](=[O:10])Cl)[NH2:21] 10=20;20,21=21
[H:20][O+:21]=C(C)C(C)Br.[OH2:10]>>[H:20][OH2+:10].CC(C(=[O:21])C)Br 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.COC(=O)CC(=O)C(C(CCl)[O-:10])C(=O)OC.O>>[H:20][O:10]C(CCl)C(C(=O)CC(=O)OC)C(=O)OC.C1=CC=[N:21]C=C1.O 10=20;20,21=21
[H:20][OH:21].CC(C)(CC#N)[O-:10]>>[H:20][O:10]C(C)(C)CC#N.[OH-:21] 10=20;20,21=21
[H:20][OH2+:21].C1=CC=C(C=C1)CC(=O)CC(=O)[O-:10]>>[H:20][O:10]C(=O)CC(=O)CC1=CC=CC=C1.[OH2:21] 10=20;20,21=21
C[S-:10].C[S:20][Cl:21]>>C[S:10][S:20]C.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)S(=O)(=O)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C(=CO1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][O+:21]1CCCC1(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1(CCC[O:21]1)C 10=20;20,21=21
COC1=C2C(=CC=C1)C3=CC=CC=C3N2C(CO[S:20](=O)(C(F)(F)F)([N+:21]4=CC=CC=C4)[O-:10])C5=CC=CC=C5.C(F)(F)(F)S(=O)(=O)O>>C1=CC=[N:21]C=C1.COC1=C2C(=CC=C1)C3=CC=CC=C3N2C(CO[S:20](=O)(=[O:10])C(F)(F)F)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)O 10=20;20,21=21
[Li:11][CH3:10].[Li][P+:20](C)(C)Cl>>[Li+:11].[Li][P:20](C)(C)([CH3:10])Cl 10,11=10,20
[H:20][Br:21].CC1C[O:10]1>>[H:20][O+:10]1CC1C.[Br-:21] 10=20;20,21=21
[H:20][OH2+:21].C1CN(CC2C1(OC(=C2)C3=CC=CC=C3)[OH:10])CC4=CC=CC=C4.[Cl-]>>[H:20][OH+:10]C12CCN(CC1C=C(O2)C3=CC=CC=C3)CC4=CC=CC=C4.[OH2:21].[Cl-] 10=20;20,21=21
[CH2:10]1C2C=CC([C:11]1([CH2:20][N+:21]#N)[OH:12])O2.O.OS(=O)(=O)[O-].[Na+]>>N#[N:21].[CH2:10]1[CH2:20][C:11](=[OH+:12])C2C=CC1O2.O.OS(=O)(=O)[O-].[Na+] 10,11=10,20;20,21=21;12=11
[Li:11][CH:10]1SCCCS1.C[CH:20]=[O:21]>>[Li+:11].C[CH:20]([CH:10]1SCCCS1)[O-:21] 10,11=10,20;20,21=21
CCN(CC)[C:20](C)([OH:10])[O:21]C(=O)C>>CCN(CC)[C:20](=[OH+:10])C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(C)N(CC1=CC=CC=C1)C(=O)C2C(C3CC4(C5CC6=C(C4(CCN5C)CC3=[NH+]2)C=CC=C6)O)(C)[O-:10].O>>[H:20][O:10]C1(C2CC3(C4CC5=C(C3(CCN4C)CC2=[NH+]C1C(=O)N(CC6=CC=CC=C6)C(C)C)C=CC=C5)O)C.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)[N+](=O)[O-])Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=CC(=C2)[N+](=O)[O-])[C:21](=[CH:22]1)Br 10=20;20,21=21,22
C[CH:20]=[O+:21]CC[NH2:10]>>C[CH:20]1[NH2+:10]CC[O:21]1 10=20;20,21=21
[H:20][O+:21]=C(C)C1=CC=CC=C1.[OH2:10]>>[H:20][OH2+:10].CC(=[O:21])C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CC1CN=N[OH:10]>>[H:20][OH+:10]N=NCC1CC1.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC1CO1)C(CO)CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1C(O1)C[O:21]C(CO)CO 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[C:11]([OH:12])OC>>[H:20][CH:10](CNCC)[C:11](=[OH+:12])OC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[C:20](OC)([O:10]C)[SH+:21]C>>C[C:20](=[O+:10]C)OC.C[SH:21] 10=20;20,21=21
C[S:20][S:21]C.[Br-:10]>>C[S-:21].C[S:20][Br:10] 10=20;20,21=21
B([O+:21](CCC)[CH2:20][O:10]C)(F)F.[F-]>>B([O:21]CCC)(F)F.C[O+:10]=[CH2:20].[F-] 10=20;20,21=21
[H:20][OH+:21]C.CN1C2=C(C=CC=C2)C3=CC(=CC=C31)C(O)O[OH:10]>>[H:20][OH+:10]OC(C1=CC=C2C(=C1)C3=C(N2C)C=CC=C3)O.C[OH:21] 10=20;20,21=21
C[N+:21](=[CH:20]OP(Cl)(Cl)(Cl)Cl)C.[Cl-:10].B(F)(F)F.CCOCC.C1=CC(=CC=C1CC(=O)C2=C(C=C(C=C2O)O)O)O>>C[N:21](C)[CH:20](OP(Cl)(Cl)(Cl)Cl)[Cl:10].B(F)(F)F.CCOCC.C1=CC(=CC=C1CC(=O)C2=C(C=C(C=C2O)O)O)O 10=20;20,21=21
[H:20][OH2+:21].OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)O.[OH2:21] 10=20;20,21=21
C[C:11](=[CH:10]CCC[CH2:20][Br:21])[O-:12]>>C[C:11](=[O:12])[CH:10]1CCC[CH2:20]1.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C#N)[C:22]#[N:23].[H:10][Na:11]>>[CH:21](=[C:22]=[N-:23])C#N.[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
CCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[Li-:20](C(CC=C)CC=C)[N+](C)(C)CC[N:10](C)C>>[Li-2:20]1([N+:10](CC[N+]1(C)C)(C)C)C(CC=C)CC=C 10=20,
CC[C:20](CCC1(C(=O)CCC1=O)C)([NH:10]C(C(C)C)C(=O)O)[OH2+:21].CC(C)C(C(=O)[O-])N>>CC[C:20](=[NH+:10]C(C(C)C)C(=O)O)CCC1(C(=O)CCC1=O)C.[OH2:21].CC(C)C(C(=O)[O-])N 10=20;20,21=21
CN[CH:20]=[N+:21](C)C.[OH2:10].[Cl-]>>CN[CH:20]([N:21](C)C)[OH2+:10].[Cl-] 10=20;20,21=21
